US05665718
A suspension of 1.13 g (3.0 mmol) of (S)-7-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one in 15 ml of N,N-dimethylformamide was treated with 0.74 ml (9.0 mmol) of propylamine and stirred at room temperature under argon for 3 hrs. The solution was evaporated, the residue was taken up in 20 ml of water and the aqueous phase was extracted with methylene chloride. The combined extracts were washed twice with water, dried with sodium sulfate, filtered and evaporated. The crude product was chromatographed on 30 g of silica gel (methylene chloride/acetone 4:1, then 2:1 and finally methylene chloride/methanol 9:1). There were obtained 840 mg of (S)-7-chloro-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted in acetonitrile in the presence of fumaric acid into the fumarate. By recrystallization from acetonitrile there were obtained 588 mg (35%) of (S)-7-chloro-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one fumarate (1:1.4) of m.p. 135°-140° (dec.).

reactant | (S)-7-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 3.0 mmol, 1.13 g | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C4=NOC(=N4)CCl)CC3)=O)C1 | C16H11Cl2N5O2
reactant | propylamine | 9.0 mmol, 0.74 ml | C(CC)N | C3H9N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-7-chloro-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 840 mg | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C4=NOC(=N4)CNCCC)CC3)=O)C1 | C19H19ClN6O2
